US05661159
To a cooled suspension of lithium diisopropylamide {(1.45 mM tetrahydrofuran and n-hexane solution), 3.1 ml} and methyl 2-methylpropionate (0.5 g), dried hexamethylphosphoric triamide (0.5 ml) was added at -78° C. and the mixture was stirred for 10 minutes at the same temperature. Subsequently, 7-chloro-2-(5-chloromethylbenzofuran-2-yl)quinoline (6.43 g) was added to the mixture. After being stirred for 30 minutes at the same temperature, additive hexamethylphosphoric triamide (1.36 ml) was added to the mixture. The reaction temperature was gradually elevated to -10° C. for 1 hour. The resulting mixture was poured into ice-water and extracted with chloroform. The organic layer was washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel (100 g) and eluted with n-hexane, successively 10% ethyl acetate in n-hexane and toluene. The fractions containing object compound were combined and concentrated under reduced pressure. The residue was dissolved in chloroform and n-hexane was added to the solution. The resulting precipitates were collected by filtration and dried to give 7-chloro-2-[5-(2-methoxycarbonyl-2-methylpropyl)benzofuran-2-yl]-quinoline (0.18 g).

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | tetrahydrofuran | 1.45 mM | O1CCCC1 | C4H8O
reactant | methyl 2-methylpropionate | 0.5 g | CC(C(=O)OC)C | C5H10O2
reactant | 7-chloro-2-(5-chloromethylbenzofuran-2-yl)quinoline | 6.43 g | ClC1=CC=C2C=CC(=NC2=C1)C=1OC2=C(C1)C=C(C=C2)CCl | C18H11Cl2NO
solvent | hexamethylphosphoric triamide | 1.36 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | hexamethylphosphoric triamide | 0.5 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | n-hexane | CCCCCC | C6H14
product | 7-chloro-2-[5-(2-methoxycarbonyl-2-methylpropyl)benzofuran-2-yl]-quinoline | 0.18 g | ClC1=CC=C2C=CC(=NC2=C1)C=1OC2=C(C1)C=C(C=C2)CC(C)(C)C(=O)OC | C23H20ClNO3
